US04259489
Isopropanol (50 ml) was added to 1.99 g (0.01 mole) of 2,3-dicyano-5,6-dichloropyrazine, and the mixture was refluxed for 10 hours. After the reaction, the isopropanol was distilled off under reduced pressure. The crude product obtained (1.14 g) was chromatographed on a column of silica gel using benzene-n-hexane as an eluent to afford 1.00 g (yield 45%) of 2,3-dicyano-5-chloro-6-isopropoxypyrazine.

reactant | 2,3-dicyano-5,6-dichloropyrazine | 0.01 mole, 1.99 g | C(#N)C1=NC(=C(N=C1C#N)Cl)Cl | C6Cl2N4
reactant | Isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 2,3-dicyano-5-chloro-6-isopropoxypyrazine | 1.00 g, yield 45% | C(#N)C1=NC(=C(N=C1C#N)Cl)OC(C)C | C9H7ClN4O
